US04939133
N-[4-(2-(3,4-dimethoxyphenyl)ethyl)phenyl]-2-hydroxy-α-oxo-Benzeneacetamide
A mixture of 2,3-benzofurandione (Fries and Pfaffendorf, Ber, 45, 156 (1912); Valentine, Titoff, Muller, and Reichstein, Helv. Chim. Acta, 20, 883 (1937)) (10 g, 0.0675 mol) and 4-[2-(4-aminophenyl)ethyl]-1,2-dimethoxybenzene (15.6 g, 0.0606 mol) in dry tetrahydrofuran is stirred at room temperature under nitrogen for 18 hours in the dark. The solvent is removed under reduced pressure on a rotary evaporator below 35° and the resulting solid is recrystallized from tetrahydrofuran-ethanol to give 22.2 g (90.6%) of a light-yellow solid, mp 124°-125° C.

reactant | 2,3-benzofurandione | 0.0675 mol, 10 g | O1C(C(C2=C1C=CC=C2)=O)=O | C8H4O3
reactant | 4-[2-(4-aminophenyl)ethyl]-1,2-dimethoxybenzene | 0.0606 mol, 15.6 g | NC1=CC=C(C=C1)CCC1=CC(=C(C=C1)OC)OC | C16H19NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[4-(2-(3,4-dimethoxyphenyl)ethyl)phenyl]-2-hydroxy-α-oxo-Benzeneacetamide | 22.2 g, 90.6% | COC=1C=C(C=CC1OC)CCC1=CC=C(C=C1)NC(C(C1=C(C=CC=C1)O)=O)=O | C24H23NO5
